US07166746B2
At −78° C., 140 ml n-BuLi (1.6 M in hexane, 223.8 mmol) in 600 ml THF are added to a solution of 89.92 g (203.4 mmol) (4-bromo-2-methoxy-phenoxy)-tert-butyl-diphenyl-silane over a period of 30 minutes. After further 30 minutes at −78° C., 140.9 ml (610.4 mmol) triisopropylborate are added over a period of 30 minutes. The mixture is allowed to warm up to room temperature and is then hydrolysed at 0° C. with a 10% HCl solution within 30 minutes. After separation of the water phase, the organic phase is dried over MgSO4, condensed and the residue is crystallized-from ethyl acetate and a mixture of ethyl acetate/heptane, yielding. 4-(tert-butyl-diphenyl-silanyloxy)-3-methoxy-phenyl-boronic acid is isolated as a light yellow solid (m.p. 193–196° C.).

reactant | n-BuLi | 223.8 mmol, 1.6 M, 140 ml | [Li]CCCC
reactant | (4-bromo-2-methoxy-phenoxy)-tert-butyl-diphenyl-silane | 203.4 mmol, 89.92 g | BrC1=CC(=C(O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=C1)OC | C23H25BrO2Si
reactant | triisopropylborate | 610.4 mmol, 140.9 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | Cl | ClH
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-(tert-butyl-diphenyl-silanyloxy)-3-methoxy-phenyl-boronic acid | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)B(O)O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H27BO4Si
